US05354861
2-(p-Chorophenylmethylene)-3-[p-(2-morpholinoethoxy)phenyl]-6-methoxy-2,3-dihydrobenzo[b]furan-3-ol (5)
n-Butyl lithium (2.87 mi of a 1.28M solution, 3.68 mmol) was added dropwise to a solution of 4-[2-morpholinoethoxy]phenyl bromide (0.80 ml, 3.68 mmol) in THF (10 ml) at -78° C. under nitrogen atmosphere. After stirring for 1 hour at -78° C., 2-(p-chlorobenzylidene)-6-methoxy-3(2H)-benzofuranone (1.0 g, 3.50 mmol) in THF (5 m was added dropwise to the mixture at -78° C. The reaction mixture was left overnight at room temperature. It was quenched with saturated ammonium chloride, THF was evaporated off to yield an oil which was extracted with ethyl acetate (2×20 ml). The ethyl acetate extract was washed with water followed by brine (2×20 ml), dried (anhydrous magnesium sulfate) and the solvent was evaporated to give an oil which was chromatographed on silica gel. Elution with (chloroform:hexane:triethylamine=1:1:0.2) yielded a solid of the free base (Rf =0.3). Yield (56%); m.p. 69-70° C.; 1H-NMR (CDCl3) δ 1.55 (brs, 1H, OH), 2.54-2.58 (m, 4H, N(CH2CH2)20 (ring)), 2.79 (t, 2H, OCH2CH2N), 3.7-3.74 (m, 4H, N(CH2CH2)2 (ring)), 3.84 (3H, OCH3), 4.09 (2H, OCH2CH2N), 5.64 (benzylidene proton), 6.72-7.60 (m, 11H, ArH). 13C-NMR δ(ppm) 104.4 (benzylidene carbon), 133.1 (C-2), 81.0 (C-3), 54.1 (OCH3); IR (KBr) 1680 cm-1 (C=C), 3400 cm-1 (broad OH); m/z (%) 495(5), 493(10), 100(100). (Found: C, 68.14, H, 5.89, N, 2.75, Cl, 7.30. C28H28ClO5N required C, 68.15, It, 5.68, N, 2.84, Cl, 7.10).

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 4-[2-morpholinoethoxy]phenyl bromide | 3.68 mmol, 0.80 ml | O1CCN(CC1)CCOC1=CC=C(C=C1)Br | C12H16BrNO2
reactant | 2-(p-chlorobenzylidene)-6-methoxy-3(2H)-benzofuranone | 3.50 mmol, 1.0 g | ClC1=CC=C(C=C2OC3=C(C2=O)C=CC(=C3)OC)C=C1 | C16H11ClO3
reactant | KBr | [K+].[Br-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(p-Chorophenylmethylene)-3-[p-(2-morpholinoethoxy)phenyl]-6-methoxy-2,3-dihydrobenzo[b]furan-3-ol | ClC1=CC=C(C=C1)C=C1C(C2=C(O1)C=C(C=C2)OC)(O)C2=CC=C(C=C2)OCCN2CCOCC2 | C28H28ClNO5
